US04173634
A. 2-Benzylidene-1-indanone oxide
2-Benzylidene-1-indanone [3.3 g (0.015 mole), prepared as described in U.S. Pat. No. 3,926,988] is dissolved in 160 ml of MeOH and converted to the epoxide using 3.5 g (0.031 mole) of 30% H2O2 and 3.5 ml (0.014 mole) of 16% NaOH as described in Example 1 to give 3.2 g (90%) of colorless solid; m.p. 115°-117°. A sample crystallized from i-PrOH melts at 118°-120°. Lit m.p. 121°-122° [JACS, 80, 900 (1958)].

reactant | 2-Benzylidene-1-indanone | C(C1=CC=CC=C1)=C1C(C2=CC=CC=C2C1)=O | C16H12O
reactant | H2O2 | OO | H2O2
reactant | NaOH | 0.014 mole, 3.5 ml | [OH-].[Na+]
solvent | MeOH | 160 ml | CO | CH4O
product | 2-Benzylidene-1-indanone oxide | 3.2 g, 90% | C(C1=CC=CC=C1)=C1C(C2=CC=CC3C2(C1)O3)=O | C16H12O2
